US05123951
Into a nitrogen-purged, air-stirred reaction flask was charged 4.44 grams (0.04 mol) of 4-fluoroaniline, 4.05 grams (0.04 mole) of triethylamine and 200 milliliters of tetrahydrofuran solvent. A 6.02 gram (0.04 mol) portion of ethyl malonyl chloride was then added rapidly by a dropping funnel to the mixture with good stirring at room temperature followed by a few milliliters of tetrahydrofuran as a rinse. The temperature of the stirred mixture rose to 42° C. and a white precipitate of triethylamine hydrochloride separate therefrom. The mixture was then stirred at ambient temperature for about 2 hours and the triethylamine hydrochloride filtered off, washed with solvent and dried to give 5.2 grams (0.04 mole). The filtrate was freed of solvent on a rotary evaporator and the resulting purple solid dissolved in methylene chloride, which solution was washed in succession with 2N HCl (3×75 milliliters), and water (2×75 milliliters), and then dried over magnesium sulfate and solvent vacuum stripped to give a crude solid product. Recrystallization from ethyl acetate-cyclohexane followed by flash column chromatography gave 3.47 grams (0.015 mole) of ethyl 3-[(4-fluorophenyl)amino]-3-oxopropanoate having a melting point of 68° C-71° C.

reactant | 4-fluoroaniline | 0.04 mol, 4.44 grams | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 0.04 mole, 4.05 grams | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | tetrahydrofuran | 200 milliliters | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | a few milliliters | O1CCCC1 | C4H8O
product | ethyl 3-[(4-fluorophenyl)amino]-3-oxopropanoate | 0.015 mole, 3.47 grams | FC1=CC=C(C=C1)NC(CC(=O)OCC)=O | C11H12FNO3
